US07371757B2
a) 5-[4-amino-2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile
5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-4-thioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile (0.5g, 1.0 mmol) was dissolved in 10 mL anhydrous THF. Anhydrous ammonia in methanol (20 mL of 2M solution) was added, followed by mercury (II) chloride (410 mg, 1.5 mmol, 1.5 eq). The mixture was heated to 60° C. for 48 h. Volatiles were evaporated and the residue dissolved in 100 mL ethyl acetate, 50 mL dichloromethane, and 100 mL water. The organic layer was washed with water (100 mL) and dried over sodium sulfate. The residue was purified by chromatography on silica (gradient: dichloromethane to 10% methanol in dichloromethane), yielding 232 mg (48%) of the product as a yellow solid. ES M+H+=485.

reactant | 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-4-thioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 1.0 mmol, 0.5g | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(NC(C2=C1C1=CC(=CN1C)C#N)=S)=O)CC1CC1 | C25H20ClN7OS
reactant | ammonia | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 2M, 20 mL | CO | CH4O
catalyst | mercury (II) chloride | 1.5 mmol, 410 mg, 1.5 eq | [Hg](Cl)Cl
product | 5-[4-amino-2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 232 mg, 48% | NC=1C=2C(N(C(N1)=O)CC1CC1)=NN(C2C2=CC(=CN2C)C#N)CC2=CC=NC1=CC=C(C=C21)Cl | C25H21ClN8O
